US08426420B2
ii) 5-[2-((S)-2-(Cyclopropylmethyl-carbamoyl)-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid
To a solution of 1.45 g 5-[2-((S)-2-(Cyclopropylmethyl-carbamoyl)-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester in 18 ml THF and 5 ml water were added 2.3 ml aqueous NaOH (2 M) portionwise at 0° C. After 12 h the solution was neutralized with Amberlite IR-120 ion exchange resin, filtered and washed with methanol. The crude product obtained after evaporation of the solvents was used in the subsequent reaction. Yield: 1.50 g.

reactant | 5-[2-((S)-2-(Cyclopropylmethyl-carbamoyl)-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester | 1.45 g | C(C)OC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NCC1CC1)=O)C1=CC=CC=C1 | C23H28N4O5
reactant | NaOH | 2 M, 2.3 ml | [OH-].[Na+]
solvent | THF | 18 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 5-[2-((S)-2-(Cyclopropylmethyl-carbamoyl)-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid | C1(CC1)CNC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)O)=O | C21H24N4O5
